US04187216
4.1 g (0.013 mol) of L-alanyl-L-alanine anilide hydrobromide were dissolved in 120 ml of dry pyridine and 3 ml (0.026 mol) of benzoyl chloride were added. The solution was stirred at room temperature for 3 hours and was then evaporated to yield a solid. 50 ml of water were added, the solid was filtered off, washed with 50 ml of water and then recrystallise from ethanol to yield 3.15 g (72%) of N-benzoyl-L-alanyl-L-alanine anilide of melting point 245°-248° C.; [α]D20 =+66.6° (c=1.086% in dimethylformamide).

reactant | L-alanyl-L-alanine anilide hydrobromide | 0.013 mol, 4.1 g | Br.N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1
reactant | benzoyl chloride | 0.026 mol, 3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 50 ml | O | H2O
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | N-benzoyl-L-alanyl-L-alanine anilide | 3.15 g, 72% | C(C1=CC=CC=C1)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1 | C19H21N3O3
